US04440774
(a) 3-[2-(3,4-Dimethoxyphenyl)ethylamino]-1,1-propanediol, I
To a solution of β-(3,4-dimethoxyphenyl)ethylamine (151.0 g., 0.83 m) in isopropanol (160 ml.) heated at 50° is added a solution of glycidol (24.8 g., 0.33 m) in isopropanol (25 ml.) over 30 minutes. After heating at 50° for 30 minutes and at 70° for 15 hours, the solvent is concentrated under reduced pressure. The residue is distilled at 224°-227° C. at 0.7 mm. to yield I (47.9 g., 57%).

reactant | β-(3,4-dimethoxyphenyl)ethylamine | 151.0 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | glycidol | 24.8 g | C1C(O1)CO | C3H6O2
reactant | isopropanol | 160 ml | C(C)(C)O | C3H8O
reactant | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | 3-[2-(3,4-Dimethoxyphenyl)ethylamino]-1,1-propanediol | COC=1C=C(C=CC1OC)CCNCCC(O)O | C13H21NO4
